US07169932B2
MeOH (330 mL) and K2CO3 (66.9 g; 484 mmol) were sequentially added to a 2-methyltetrahydrofuran solution of crude acetic acid 3-{(1S,2S)-3-[(4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidin-3-yl]-1-benzyl-2-hydroxy-3-oxo-propylcarbamoyl}-2-methyl-phenyl ester (theoretical amount: 405 g; 731 mmol) in a 3-L flask at room temperature. Two and a half hours later, additional K2CO3 (20 g; 144 mmol) was added. Three hours later the reaction mixture was vacuum-filtered on a pad of Celite, using 4:1 2-methyltetrahydrofuran/MeOH (330 mL) for rinsing over the solids and washing the filter cake. The filtrate was transferred to a 6-L separatory funnel, using 4:1 2-methyltetrahydrofuran/MeOH (80 mL) for rinsing. The solution was diluted with i-PrOAc (1.66 L) and was then washed with a solution of NaCl (83.0 g) in H2O (1.60 L). The organic fraction was washed with 0.5 N HCl (1.66 L) and then with a saturated aqueous NaCl solution (400 mL). The resulting organic fraction was transferred to a 4-L Erlenmeyer flask and MgSO4 (120 g) was added. After stirring for 10 min, the mixture was vacuum-filtered directly into a 5-L distillation flask, using 2:1 i-PrOAc/2-methyltetrahydrofuran (600 mL) for rinsing the separatory funnel and Erlenmeyer flask and washing the MgSO4. The 2-methyltetrahydrofuran was displaced by distillation at one atmosphere with the simultaneous addition of i-PrOAc in five portions (a total of 3.60 L was used), while maintaining a minimum pot volume of ˜2.50 L. The resulting crystallizing mixture was cooled to 75° C. and was held at this temperature for 30 min. The suspension was then allowed to slowly cool to room temperature overnight. The suspension was vacuum-filtered, using i-PrOAc (600 mL) for transferring and washing the crystals. After drying in a vacuum oven at 40° C., 204 g (54% from (2S,3S)-3-(3-Acetoxy-2-methyl-benzoylamino)-2-hydroxy-4-phenyl-butyric acid) of crystalline (4R)-3-[(2S,3S)-2-Hydroxy-3-(3-hydroxy-2-methyl-benzoylamino)-4-phenyl-butyryl]-5,5-dimethyl-thiazolidine-4-carboxylic acid allylamide was obtained. This material was recrystallized as described below.

reactant | K2CO3 | 484 mmol, 66.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyltetrahydrofuran | CC1OCCC1 | C5H10O
reactant | acetic acid 3-{(1S,2S)-3-[(4R)-4-allylcarbamoyl-5,5-dimethyl-thiazolidin-3-yl]-1-benzyl-2-hydroxy-3-oxo-propylcarbamoyl}-2-methyl-phenyl ester | 731 mmol, 405 g | C(C=C)NC(=O)[C@H]1N(CSC1(C)C)C([C@H]([C@H](CC1=CC=CC=C1)NC(=O)C=1C(=C(C=CC1)OC(C)=O)C)O)=O | C29H35N3O6S
reactant | K2CO3 | 144 mmol, 20 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 330 mL | CO | CH4O
product | (4R)-3-[(2S,3S)-2-Hydroxy-3-(3-hydroxy-2-methyl-benzoylamino)-4-phenyl-butyryl]-5,5-dimethyl-thiazolidine-4-carboxylic acid allylamide | 204 g, 54% | C(C=C)NC(=O)[C@H]1N(CSC1(C)C)C([C@H]([C@H](CC1=CC=CC=C1)NC(C1=C(C(=CC=C1)O)C)=O)O)=O | C27H33N3O5S
